US04251538
1 g of 1-[4-(3-indolyl)-butyl]-4-phenylpyridinium chloride is dissolved in 25 ml of methanol and hydrogenated on 0.1 g of platinum at 25° and normal pressure until the reaction has ceased; the reaction mixture is filtered; the filtrate is evaporated; and, after customary working up, 3-[4-(4-phenyl-1-piperidyl)-butyl]-indole is obtained; hydrochloride, m.p. 213°-215°.

reactant | 1-[4-(3-indolyl)-butyl]-4-phenylpyridinium chloride | 1 g | [Cl-].N1C=C(C2=CC=CC=C12)CCCC[N+]1=CC=C(C=C1)C1=CC=CC=C1
solvent | methanol | 25 ml | CO | CH4O
catalyst | platinum | 0.1 g | [Pt] | Pt
product | 3-[4-(4-phenyl-1-piperidyl)-butyl]-indole | C1(=CC=CC=C1)C1CCN(CC1)CCCCC1=CNC2=CC=CC=C12 | C23H28N2
